US07897619B2
5-(Isoquinolin-6-yl)-1,3,4-oxadiazol-2-amine:
A 3 M DCM solution of bromoformonitrile (0.2 mL, 0.6 mmol) (commercially available from Aldrich) was mixed with imidazole (0.157 g, 2.3 mmol) (commercially available from Aldrich) in 10 mL DCM. The mixture was heated and maintained to reflux for 30 minutes in a round bottom flask. After the DCM was removed under a reduced pressure, isoquinoline-6-carbohydrazide (0.1 g, 0.53 mmol) suspended in 50 mL THF was added into the flask. The mixture was heated and maintained at reflux for 3 hours. After removing the THF, the remaining residue was mixed with 10 mL water and filtered. After washing with water and air drying, a white solid was obtained as the desired product (0.107 g, 96%) LCMS (API-ES) m/z (%): 213.0 (100%, M++H).

reactant | bromoformonitrile | 0.6 mmol, 0.2 mL | BrC#N | CBrN
reactant | imidazole | 2.3 mmol, 0.157 g | N1C=NC=C1 | C3H4N2
reactant | isoquinoline-6-carbohydrazide | 0.53 mmol, 0.1 g | C1=NC=CC2=CC(=CC=C12)C(=O)NN | C10H9N3O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DCM | 3 M | C(Cl)Cl | CH2Cl2
product | 5-(Isoquinolin-6-yl)-1,3,4-oxadiazol-2-amine | 0.107 g, 96% | C1=NC=CC2=CC(=CC=C12)C1=NN=C(O1)N | C11H8N4O
